US09238697B2
Synthesis of Fmoc-Tyr(tBu)-Lys(Z)-OMe:
To a solution of diisopropylethyl amine (1.19 mL, 3.43 mmol) in DCM (50 mL), was added Lys(Z)OMe (1.13 g, 3.43 mmol). To this solution was added FmocTyr(tBu)OH (1.50 g, 3.26 mmol), then HOBt (0.463 g, 3.43 mmol), and finally EDC.HCl (0.6571 g, 3.43 mmol). This solution was allowed to stir for 8 h at which time the organic solution was washed with 1N HCl (2×20 mL), then saturated NaHCO3 (2×20 mL), and finally H2O (2×20 mL). The organic layer was concentrated in vacuo to yield a white solid (2.34 g, 97.5% yield): 1H NMR (500 MHz, CDCl3) δ 7.77 (d, J=7.53, 2H), 7.55 (m, 2H), 7.40 (t, J=7.45, 2H), 7.38-7.29 (m, 7H), 7.08 (m, 2H), 6.88 (d, J=8.25, 2H), 6.43 (br s, 1H), 5.52 (br s, 1H), 5.15-5.07 (br m, 3H), 4.50 (m, 1H), 4.42 (m, 1H), 4.30 (m, 1H), 4.18 (t, J=6.92, 1H), 3.70 (s, 3H), 3.18-2.95 (m, 4H), 1.85-1.35 (m, 4H), 1.30 (s, 10H), 1.20 (br s, 2H); 13C NMR (125 MHz, CDCl3) δ 163.0, 154.6, 143.9-143.8 (3), 141.46, 136.6, 130.0, 128.7, 128.2, 127.9, 127.3, 125.2, 124.5, 120.2 (2), 67.13, 66.8, 53.6, 52.6, 47.3, 41.0, 37.8, 32.6, 29.4, 29.0 (3), 22.17; HRMS (FAB) m/z calcd for C43H49N3O8 (M+H)+ 736.3598, found 736.3623.

reactant | diisopropylethyl amine | 3.43 mmol, 1.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Lys(Z)OMe | 3.43 mmol, 1.13 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC | C15H22N2O4
reactant | FmocTyr(tBu)OH | 3.26 mmol, 1.50 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H29NO5
reactant | HOBt | 3.43 mmol, 0.463 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 3.43 mmol, 0.6571 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Fmoc-Tyr(tBu)-Lys(Z)-OMe | 2.34 g, 97.5% yield | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C43H49N3O8
